Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain, hypotension
 
Major Surgical or Invasive Procedure:
Hemodialysis
 
History of Present Illness:
___ yo F with ESRD on ___ HD, COPD, DM2, s/p bilat BKA sent to ED 
after episode of hypotension and chest pain while in dialysis 
this morning. Per patient, she was feeling well during HD, and 
had full session. At the end of her session, BP dropped (unclear 
how low), and pt c/o mild midline substernal nonradiating chest 
pressure that lasted 5 mins, resolved spontaneously. No assoc 
SOB, diaphoresis, or other sx. She is now feeling well and 
requesting to be discharged. Pt says she had 2L removed today.
.  
Of note, pt was discharged 2 weeks ago after presenting with 
episode of hypotension and chest pressure during HD (SBPs in ___ 
initially). Pt did well thereafter, but bcx grew GPCs in 
clusters (coag neg staph). RIJ tunneled catheter was not removed 
as pt was afebrile and well-appearing, and was discharged 
thereafter in good condition. She has had a similar episode in 
___, for which she was admitted and ruled out as well.
.
In the ED, initial VS: T:97.0  HR:60  ___  RR:16  Sats:99 
RA.  BP improved to 116/47 with 250cc bolus x 2.
.
Currently, pt is without complaints and believes she is ready to 
go home.  Denies CP/SOB/lightheadedness/dizziness/fevers.
.
ROS: Otherwise N/C.
 
Past Medical History:
* ESRD on ___ HD since ___, has 2h UF session on ___  

- presumed due to DM2  
- primary nephrologist Dr. ___
* COPD - home O2, ___
* DM2 on insulin  
* CHF with diastolic dysfunction, EF 75%  
* paroxysmal afib, s/p failed ablation, on warfarin  
* HTN c/b LVH, LVOT
* HLP
* PVD s/p bilateral BKAs  
* glaucoma, left eye blindness
* GERD
 
Social History:
___
Family History:
Her father died in his ___ of complications of DM2 and mother at 
the age of ___ of a stroke. Patient had a sister who died in her 
___ of cancer (unknown type and site) and 2 brothers that died 
stroke and brain cancer. She has 7 children who are healthy. Her 
family history is significant for coronary artery disease, 
cancer, and diabetes.
 
Physical Exam:
PHYSICAL EXAM:  
Vitals - T: 99.7 BP: 118/52 HR: 96 RR: 16 02 sat: 99% RA
GENERAL: NAD, pleasant
HEENT: MMM, RIJ tunneled catheter site c/d/i 
CARDIAC: RRR with ___ systolic murmur radiating to the carotids
LUNG: CTAB, decreased air movement at bases bilaterally
ABDOMEN: +BS, S, NT/ND
EXT: WWP, 2+ pulses, no c/c/e
NEURO: Grossly intact.
DERM: No rashes or ecchymosis.
 
Pertinent Results:
EKG: deeper lateral ST depression v4-5. TWI v5-6 stable from 
prior.

___ 03:40PM   cTropnT-0.13*
___ 03:40PM   CK(CPK)-42
___ 09:15PM   CK-MB-NotDone cTropnT-0.11*
___ 06:50AM   cTropnT-0.12*
___ 03:40PM   WBC-9.8 RBC-3.30* HGB-9.9* HCT-32.1* MCV-97 
MCH-30.0 MCHC-30.8* RDW-17.8*
___ 03:40PM   GLUCOSE-237* UREA N-14 CREAT-3.2*# SODIUM-140 
POTASSIUM-3.5 CHLORIDE-97 TOTAL CO2-33* ANION GAP-14
___ 03:40PM   ___ PTT-26.9 ___
INR 1.2 on discharge.

BCx: Pending at time of hospital discharge.
 
Brief Hospital Course:
# Hypotension: The patient became hypotensive after dialysis 
likely due to hypovolemia which was responsive to boluses in the 
ED.  BP remained stable between ___ during 
hospitalization.  Her lisinopril was held during 
hospitalization.  Her amiodarone, verapamil, and metoprolol were 
continued with holding parameters.  After discussion with renal, 
it was felt that lisinopril should be continued but could be 
safely downtitrated to 5 mg po qday on discharge.
.
# Chest pressure: Asymptomatic throughout hospital admission.  
Patient ruled out on cardiac enzymes with troponins at baseline. 
 Deeper ST depressions noted on EKG, but not significantly 
different from the patient's EKG changes at baseline.
.
# ESRD: On dialysis MWF.  UF on ___.  Amount of fluid taken off 
is difficult to titrate in order to balance the patient between 
CHF and hypotension.
.
# subtherapeutic INR - INR 1.1 on initial presentation.  Per HCA 
notes, home regimen is currently 3mg/daily.  Gave 3 mg on night 
of admission.  INR 1.2 on discharge.  Will have pt follow up in 
___ clinic.
.
# paroxysmal Afib - Continue amiodarone, metoprolol, verapamil.
# HLP - Continue simvastatin.
# Glaucoma - Continue Xalatan, Cosopt, Alphagan.
# COPD: Continue ___ give albuterol PRN.  NC at 
2L/min.
# CHF: Stable at this time; pt is not volume overloaded.
# DM: NPH 4u AM, 4u ___, SSI
# FEN: IVFs / replete lytes prn / regular diet  
# PPX: HSQ
# ACCESS: PIV in ___ (RIJ tunneled cath)
# CODE: confirmed FULL with patient
 
Medications on Admission:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1) Puff Inhalation Q6H (every 6 hours) as needed for SOB.  
2. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
3. Dorzolamide-Timolol ___ % Drops Sig: One (1) Drop 
Ophthalmic TWICE DAILY (): Left eye please.  
4. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal BID (2 times a day).  
5. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 

bedtime): please place in both eyes.  
7. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
8. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
10. Alphagan P 0.1 % Drops Sig: One (1) drop Ophthalmic twice a 
day: in right eye.  
11. Verapamil 40 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
12. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO once a day.  

13. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
14. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
15. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
16. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 

PO DAILY (Daily).  
17. Calcium Acetate 667 mg Capsule Sig: One (1) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
18. Novolin N PenFill 100 unit/mL Cartridge Sig: Four (4) units 
Subcutaneous QAM and QPM.  
19. Ammonium Lactate 12 % Cream Sig: One (1)  Topical once a 
day: use on arms and legs daily.  
20. EMLA 2.5-2.5 % Cream Sig: One (1)  Topical TIW: apply to 
fistula as directed pre-HD TIW.  
21. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO at bedtime.
22. Acetaminophen 650 mg Tablet Sig: One (1) Tablet PO once a 
day as needed for headache.  
23. Coumadin 3 mg po qday
 
Discharge Medications:
1. Verapamil 40 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
6. Calcium Acetate 667 mg Capsule Sig: One (1) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
7. Novolin N PenFill 100 unit/mL Cartridge Sig: 4 units in the 
morning.  Subcutaneous 4 units at evening.  
8. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal BID (2 times a day).  
9. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
10. Dorzolamide-Timolol ___ % Drops Sig: One (1) Drop 
Ophthalmic BID (2 times a day): in L eye.  
11. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
12. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day): in R eye.  
14. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
15. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. Warfarin 1 mg Tablet Sig: Three (3) Tablet PO DAILY (Daily). 
 
17. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*0*
18. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1) puff Inhalation every six (6) hours as needed for 
shortness of breath or wheezing.  
19. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
20. Ammonium Lactate 12 % Cream Sig: One (1)  Topical once a 
day: Use on arms and legs daily.  
21. EMLA 2.5-2.5 % Cream Sig: One (1)  Topical TIW: TIW: Apply 
to fistula as directed pre-HD TIW.  
22. Acetaminophen 650 mg Tablet Sig: One (1) Tablet PO once a 
day as needed for pain: for headache.  
23. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses: hypotension, chest pain, hypovolemia
Secondary Diagnoses:
1. ESRD
2. COPD
3. DM2
4. CHF
5. HTN
6. HLP
7. peripheral arterial disease s/p bilateral BKA
8. GERD

 
Discharge Condition:
Stable, with no chest pressure nor hypotension.  At baseline.

 
Discharge Instructions:
You were admitted to ___ with low 
blood pressure and chest pressure.  These symptoms resolved 
after you received IV fluids, leading us to believe that they 
were caused by too much fluid removed during hemodialysis.  We 
ruled out a risk of blockage in your coronary arteries through 
blood tests overnight.

Additionally, you were found to have a low INR, indicating that 
your blood wasn't sufficiently thinned by the warfarin you were 
taking.  We restarted your warfarin in the hospital and would 
like you to continue taking it until you next follow up at 
clinic.

The following medications were changed during your 
hospitalization:
CONTINUED warfarin at 3 mg orally per day
DECREASED lisinopril to 5 mg orally per day

If you have any symptoms including chest pressure, dizziness, 
lightheadedness, shortness of breath, or any other symptoms that 
concern you, please contact your primary care doctor or the 
Emergency ___.

You are instructed to follow-up with your PCP, ___ 
___, on ___, this coming ___, at 2:00 ___.

Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet.
 
Followup Instructions:
___